US03972927
In the manner of Example 7, cyclohexylamine was reacted with 3,5-di-t-butyl-4-hydroxybenzoic acid to produce N-cyclohexyl-3,5-di-t-butyl-4-hydroxybenzamide; melting point 236°-237°C. When tested by the procedure of Example 2, this compound lasted 1150 hours, about 3.8 times as long as the control.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
product | N-cyclohexyl-3,5-di-t-butyl-4-hydroxybenzamide | C1(CCCCC1)NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C21H33NO2
